US04405635
1,3-Dihydro-4-(2-furanoyl)-5-methyl-2H-imidazol-2-one
To a slurry of 8.9 g of 1,3-dihydro-4-methyl-2H-imidazol-2-one and 24.0 g of aluminum chloride in 135 ml of nitrobenzene is added 12.9 g of furanoyl chloride in a dropwise manner. The mixture is stirred at 60° C. for 3 hours, cooled and poured over ice water. The solid is then filtered and recrystallized twice from methyl alcohol to afford the title compound. M.P. 214°-216° C.

reactant | 1,3-dihydro-4-methyl-2H-imidazol-2-one | 8.9 g | CC=1NC(NC1)=O | C4H6N2O
reactant | aluminum chloride | 24.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | furanoyl chloride | 12.9 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | nitrobenzene | 135 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1,3-Dihydro-4-(2-furanoyl)-5-methyl-2H-imidazol-2-one | O1C(=CC=C1)C(=O)C=1NC(NC1C)=O | C9H8N2O3
